US07528158B2
To a solution of 2-fluoro-5-nitrobenzoic acid (1.5 g) in DMF (50 mL) was added EDCI.HCl (1.71 g) followed by N-ethyldiisopropylamine (5.51 mL). After 10 minutes isobutylhydrazine.p-toluenesulfonicacid salt (2.32 g) was added. The reaction mixture was stirred at ambient temperature for 22 hours and the reaction was poured onto aqueous 1N HCl solution and extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo. Purification via ISCO combiflash chromatography afforded pure desired 1-isobutyl-5-nitro-1,2-dihydro-indazol-3-one (0.9 g) as a yellow solid. MS (ESI−):234.1 ([M−H]−).

reactant | 2-fluoro-5-nitrobenzoic acid | 1.5 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | EDCI.HCl | 1.71 g | CCN=C=NCCCN(C)C.Cl
reactant | N-ethyldiisopropylamine | 5.51 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | isobutylhydrazine | C(C(C)C)NN | C4H12N2
reactant | p-toluenesulfonicacid | 2.32 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-isobutyl-5-nitro-1,2-dihydro-indazol-3-one | 0.9 g | C(C(C)C)N1NC(C2=CC(=CC=C12)[N+](=O)[O-])=O | C11H13N3O3
